US07812028B2
Preparation of 6-sec-Butoxy-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide
The title compound was synthesized in analogy to the procedure described for the preparation of Example 31, using 5-bromo-6-chloro-3-pyridinecarboxylic acid, rac-2-butanol (commercially available), 4-chlorophenyl-boronic acid (commercially available), and (1R,2R)-2-amino-cyclohexanol (commercially available) as starting materials. MS (ISP): 403.2 (M+H+).

reactant | 5-bromo-6-chloro-3-pyridinecarboxylic acid | BrC=1C=C(C=NC1Cl)C(=O)O | C6H3BrClNO2
reactant | 4-chlorophenyl-boronic acid | ClC1=CC=C(C=C1)B(O)O | C6H6BClO2
reactant | (1R,2R)-2-amino-cyclohexanol | N[C@H]1[C@@H](CCCC1)O | C6H13NO
solvent | rac-2-butanol | CC(CC)O | C4H10O
product | 6-sec-Butoxy-5-(4-chloro-phenyl)-N-((1R,2R)-2-hydroxy-cyclohexyl)-nicotinamide | C(C)(CC)OC1=NC=C(C(=O)N[C@H]2[C@@H](CCCC2)O)C=C1C1=CC=C(C=C1)Cl | C22H27ClN2O3
